US08466186B2
(a) 3-Fluoro-4-hydroxy-5-nitro-benzonitrile
Fuming HNO3 (1.8 mL; 44 mmol) was added dropwise to a solution of 3-fluoro-4-hydroxybenzonitrile (4.0 g; 29 mmol) in conc. H2SO4 (10 mL) at −10° C. The mixture was stirred at −10° C. for 1 h and thereafter slowly poured into ice. The precipitate was filtered off and the filtrate was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was combined with the precipitate and crystallized from EtOAc/PE to give the sub-title compound.

reactant | HNO3 | 44 mmol, 1.8 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-fluoro-4-hydroxybenzonitrile | 29 mmol, 4.0 g | FC=1C=C(C#N)C=CC1O | C7H4FNO
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | 3-Fluoro-4-hydroxy-5-nitro-benzonitrile | FC=1C=C(C#N)C=C(C1O)[N+](=O)[O-] | C7H3FN2O3
